US07582624B2
Benzotriazol-1-yl-benzyloxycarbonylamino-acetic acid
A mixture of glyoxylic acid monohydrate (4.60 g), benzotriazole (5.95 g) and benzyl carbamate (7.55 g) was heated to reflux in toluene (100 ml) for 18 h, under Dean-Stark conditions. The mixture was then allowed to cool to room temperature, and the resulting precipitate collected by filtration. This was then recrystallised from diethyl ether giving an off-white solid (11.66 g)

reactant | glyoxylic acid monohydrate | 4.60 g | O.C(C=O)(=O)O
reactant | benzotriazole | 5.95 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | benzyl carbamate | 7.55 g | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Benzotriazol-1-yl-benzyloxycarbonylamino-acetic acid | N1(N=NC2=C1C=CC=C2)C(C(=O)O)NC(=O)OCC2=CC=CC=C2 | C16H14N4O4
